US04990521
To a stirred solution of 3.95 parts of trans-4-amino-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide and 1.78 parts of 4-amino-5-cyano-2-hydroxybenzoic acid in 150 parts of trichloromethane were added 3.1 parts of N,N'-methanetetraylbis[cyclohexanamine] and stirring was continued over weekend at room temperature. The reaction mixture was acidified with an acetic acid solution in water. The separated organic layer was washed with water, dried, filtered and evaporated. The residue was taken up in acetonitrile and the precipitate was filtered off. The filtrate was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 0.55 parts (10%) of trans-4-[(4-amino-5-cyano-2-hydroxybenzoyl)amino]-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide monohydrate; mp. 211.4° C. (compound 42).

reactant | trans-4-amino-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide | N[C@H]1[C@@H](CN(CC1)C(CC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C)O | C24H33N3O2
reactant | 4-amino-5-cyano-2-hydroxybenzoic acid | NC1=CC(=C(C(=O)O)C=C1C#N)O | C8H6N2O3
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | trans-4-[(4-amino-5-cyano-2-hydroxybenzoyl)amino]-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide monohydrate | 10% | O.NC1=CC(=C(C(=O)N[C@H]2[C@@H](CN(CC2)C(CC(C(=O)N(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C)O)C=C1C#N)O | InChI=1S/C32H37N5O4.H2O/c1-21(18-32(31(41)36(2)3,23-10-6-4-7-11-23)24-12-8-5-9-13-24)37-15-14-27(29(39)20-37)35-30(40)25-16-22(19-33)26(34)17-28(25)38;/h4-13,16-17,21,27,29,38-39H,14-15,18,20,34H2,1-3H3,(H,35,40);1H2/t21?,27-,29-;/m1./s1
